US04616090
2-(4-Allyloxy-2-propargyloxyphenyl)imidazo(4,5-c)-pyridine.
2-(2,4-Bispropargyloxyphenyl)imidazo(4,5-c)pyridine, fumarate, m.p. 195°.

reactant | 2-(2,4-Bispropargyloxyphenyl)imidazo(4,5-c)pyridine | C(C#C)OC1=C(C=CC(=C1)OCC#C)C=1NC2=C(C=NC=C2)N1 | C18H13N3O2
reactant | fumarate | C(\C=C\C(=O)[O-])(=O)[O-]
product | 2-(4-Allyloxy-2-propargyloxyphenyl)imidazo(4,5-c)-pyridine | C(C=C)OC1=CC(=C(C=C1)C=1NC2=C(C=NC=C2)N1)OCC#C | C18H15N3O2
